US07465726B2
4-[4-(6-Carbamoylpyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
Into the DMF (1 mL) solution of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (122 mg, 0.363 mmol) was added t-BuOK (1M in t-BuOH, 0.726 mL, 0.726 mmol) dropwise at RT under N2 over 5 min. The mixture was then put in an ice/water bath and stirred for 10 min. After that time, the DMF (1 mL) solution of 5-aminopyridine-2-carboxylic acid amide (99.5 mg, 0.726 mmol) was added into the above mixture dropwise. The reaction mixture was warmed to RT. Pd2(dba)3.CHCl3 (9.4 mg, 2.5% eq.) and R(+)-BINAP (22.6 mg, 0.1 eq.) were added, and the mixture was heated at 100° C. for 24 h. The mixture was filtered and the filtrate was concentrated in vacuo. The crude was submitted to MS directed purification. A brown oil was obtained that was purified further by HPLC to obtain the title compound as an off-white solid. 1H NMR (DMSO-d6, 400 MHz): δ=1.50 (s, 9H), 2.50 (m, 2H), 3.64 (t, 2H, J=5.6 Hz), 4.12 (brs, 2H), 6.50 (brs, 1H), 6.88 (s, 1H), 7.53 (d, 1H, J=4.2 Hz), 8.04-8.05 (m, 1H), 8.08 (d, 1H, J=8.8 Hz), 8.44 (s, 1H), 8.68 (dd, 1H, J=2.4 & 8.4 Hz), 9.12 (d, 1H, J=2.4 Hz), 9.91 (s, 1H), 12.18 (s, 1H). MS (ES+): m/z 436.10 (100) [MH+]. HPLC: tR=2.75 min (ZQ2000, polar—5 min).

reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.363 mmol, 122 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | t-BuOK | 0.726 mmol, 1M, 0.726 mL | CC(C)(C)[O-].[K+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | 5-aminopyridine-2-carboxylic acid amide | 0.726 mmol, 99.5 mg | NC=1C=CC(=NC1)C(=O)N | C6H7N3O
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | CHCl3 | 9.4 mg | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(6-Carbamoylpyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=NC(=CC2)C(N)=O)N1 | C22H25N7O3
